US08937083B2
To a 50 mL round bottom flask was added 2-(trifluoromethyl)acrylic acid (6 g, 42.8 mmol), followed by thioacetic acid (4.59 ml, 64.3 mmol). The reaction was slightly exothermic. The mixture was then stirred at 25° C. overnight. NMR showed some starting material (˜30%). One more equiv of thioacetic acid was added and the mixture was heated at 95° C. for 1 hour, then allowed to cool to room temperature. Mixture was purified by vacuum distillation at 2.1-2.5 mm Hg, fraction distilled at 80-85° C. was mostly thioacetic acid, fraction distilled at 100-110° C. was almost pure product, contaminated by a nonpolar impurity (by TLC). It was again purified by flash chromatography (0-20% MeOH/DCM), to give 2-(acetylthiomethyl)-3,3,3-trifluoropropanoic acid (7.78 g, 36.0 mmol, 84% yield) as colorless oil, which solidified under high vacuum to give a white solid: mp 28-30° C.; 1H NMR (400 MHz, CDCl3) δ 7.52 (brs, 1H), 3.44 (dt, J=7.5, 3.5 Hz, 2H), 3.20 (dd, J=14.9, 11.1 Hz, 1H), 2.38 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 194.79, 171.14, 123.44 (q, J=281.6 Hz), 50.47 (q, J=27.9 Hz), 30.44, 24.69 (q, J=2.6 Hz); 19F NMR (376 MHz, CDCl3) δ −67.82.

reactant | 2-(trifluoromethyl)acrylic acid | 42.8 mmol, 6 g | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | thioacetic acid | 64.3 mmol, 4.59 ml | C(C)(=S)O | C2H4OS
product | 2-(acetylthiomethyl)-3,3,3-trifluoropropanoic acid | 36.0 mmol, 7.78 g, 84% yield | C(C)(=O)SCC(C(=O)O)C(F)(F)F | C6H7F3O3S
